US03947577
To a solution of 4-cyanopyridine (4.1 grams, 0.04 mole) in methanol (60 ml.) is added sodium (0.2 grams). The resulting solution is allowed to stand at room temperature for 1/2 hour and is then added to a solution of N-methylisonicotinic acid hydrazide (6 grams, 0.04 mole) in methanol (80 ml.). The solution is refluxed for 3 hours and is then concentrated until a solid separates out of solution. The solid is collected by filtration and, upon recrystallization from ethanol, 1-methyl-3,5-di(4-pyridyl)-1,2,4-triazole is obtained, m.p. 168°-170°C.

reactant | 4-cyanopyridine | 0.04 mole, 4.1 grams | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | sodium | 0.2 grams | [Na] | Na
reactant | N-methylisonicotinic acid hydrazide | 0.04 mole, 6 grams | CN(N)C(C1=CC=NC=C1)=O | C7H9N3O
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 1-methyl-3,5-di(4-pyridyl)-1,2,4-triazole | CN1N=C(N=C1C1=CC=NC=C1)C1=CC=NC=C1 | C13H11N5
